US07335658B2
6-[4-(2,5-BIS-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE
Following the procedure of Example 3, making variations only as required to use 2,5-bis-trifluoromethylbenzoyl chloride in place of isoxazole-5-carbonyl chloride to react with 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide, the title compound was obtained as a white powder (50% yield). 1H NMR (400 MHz, CDCl3) δ 8.08, 7.99, 7.92-7.9, 7.85-7.84, 7.65, 7.02, 4.13-4.08, 3.95-3.71, 3.57-3.55, 3.38-3.36, 1.57-1.44, 0.8-0.7, 0.48-0.46, 0.16-0.08.

reactant | 2,5-bis-trifluoromethylbenzoyl chloride | FC(C1=C(C(=O)Cl)C=C(C=C1)C(F)(F)F)(F)F | C9H3ClF6O
reactant | 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCNCC1 | C14H21N5O
product | 6-[4-(2,5-BIS-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC(=C1)C(F)(F)F)C(F)(F)F)=O | C23H23F6N5O2
